US07173043B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and dimethylamine were converted to yield {4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-dimethyl-amine as white semisolid, MS: 344 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C18H16BrFOS
reactant | dimethylamine | CNC | C2H7N
product | {4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-dimethyl-amine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN(C)C | C20H22FNOS
